US07026335B2
Preparation of 4-cyclohexylpiperidine-4-carboxylic acid ethyl ester (1):
To a solution of 4-phenylpiperidine-4-carboxylic acid ethyl ester (56 g, 248 mmol) in EtOH (700 mL) is added platinum (IV) oxide (10.2 g, 45 mmol) and concentrated hydrochloric acid. The Flask is purged with nitrogen and shaken on a Parr hydrogenation apparatus at 40 psig for 18 hours. The flask is removed and additional PtO2 (2 g, 8.8 mmol) is added and hydrogenation is continued at 40 psig an additional 6 hours. The reaction solution is filtered to remove the catalyst and the filtrated is concentrated in vacuo to afford a residue which is partitioned between saturated NaHCO3 and methylene chloride. The organic phase is removed and the aqueous phase washed several times with methylene chloride. The organic layers are combined, dried and concentrated under in vacuo to afford the desired product in nearly quantitative yield as a waxy solid. 1H NMR (300 MHz, CDCl3) δ 0.90–1.45 (m, 6H), 1.25–1.32 (t, 3H), 1.55–1.85 (m, 7H), 2.15–2.28 (m, 2H), 2.98–2.80 (m, 2H), 3.18–3.27 (m, 2H), 4.10–4.25 (m, 2H), 7.10 (broad s, 1H); MS (ESI) m/z 240, (M+H+).

reactant | 4-phenylpiperidine-4-carboxylic acid ethyl ester | 248 mmol, 56 g | C(C)OC(=O)C1(CCNCC1)C1=CC=CC=C1 | C14H19NO2
reactant | hydrochloric acid | Cl | ClH
solvent | EtOH | 700 mL | CCO | C2H6O
catalyst | platinum (IV) oxide | 45 mmol, 10.2 g | [Pt](=O)=O
catalyst | PtO2 | 8.8 mmol, 2 g | O=[Pt]=O
product | 4-cyclohexylpiperidine-4-carboxylic acid ethyl ester | quantitative yield | C(C)OC(=O)C1(CCNCC1)C1CCCCC1 | C14H25NO2
